US05643932
2 ml of chlorosulfonic acid was dropwise added to 40 ml of pyridine at room temperature. The mixture was stirred at 50° C. for 12 hours. Thereto was added 0.33 g of 4-(4-hydroxyphenyl-2-(3,4-dimethoxyphenyl)thiazole. The mixture was stirred at 50° C. for 6 hours and then at room temperature overnight. The reaction mixture was concentrated to dryness under reduced pressure. The residue was mixed with water and the resulting crystals were collected by filtration. The resulting 4-(4-hydroxysulfonyloxyphenyl)-2-(3,4-dimethoxyphenyl)thiazole pyridinium salt was suspended in 3 ml of methanol. Thereto was added 5 ml of a 0.1N aqueous potassium hydroxide solution. The mixture was stirred at room temperature overnight. The reaction mixture was concentrated. The residue was dissolved in water. The solution was treated with 0.5 g of an ion exchange resin (Dowex 50W×8). The filtrate was concentrated to obtain 0.04 g of 4-(4-hydroxysulfonyloxyphenyl)-2-(3,4-dimethoxyphenyl)thiazole.

reactant | chlorosulfonic acid | 2 ml | ClS(=O)(=O)O | ClHO3S
reactant | 4-hydroxyphenyl-2-(3,4-dimethoxyphenyl)thiazole | OC1=CC=C(C=C1)C=1N=C(SC1)C1=CC(=C(C=C1)OC)OC | C17H15NO3S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-hydroxysulfonyloxyphenyl)-2-(3,4-dimethoxyphenyl)thiazole | 0.04 g | OS(=O)(=O)OC1=CC=C(C=C1)C=1N=C(SC1)C1=CC(=C(C=C1)OC)OC | C17H15NO6S2
